US04990669
To remove the benzyl group, 3.9 mmol of (1R,2S)-1-phenyl-2-(N,N-dibenzylamino)-1-propanol are dissolved in 5 ml of methanol. This solution is added to a mixture of 40 ml of methanol, 10.6 g of formic acid and 50 mg of palladium black. The air is displaced from the reaction vessel using hydrogen. After hydrogenation for 1 hour, the palladium catalyst is filtered off, and the solution is concentrated in vacuo. The residue is taken up in 10 ml of methanol and stirred with 1 g of silica gel and 5 drops of concentrated hydrochloric acid at room temperature for 1 hour. The residue obtained after removal of the silica gel by filtration and concentration of the filtrate is purified by chromatography. 243 mg (=60% of theory) of analytically pure norephedrine are obtained.

reactant | (1R,2S)-1-phenyl-2-(N,N-dibenzylamino)-1-propanol | 3.9 mmol | C1(=CC=CC=C1)[C@H]([C@H](C)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C23H25NO
reactant | formic acid | 10.6 g | C(=O)O | CH2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium black | 50 mg | [Pd] | Pd
solvent | methanol | 40 ml | CO | CH4O
product | norephedrine | C[C@H]([C@H](C1=CC=CC=C1)O)N | C9H13NO
